US07989444B2
2,10-dimethyl-7-(3-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride
The title compound was prepared in analogy to General Procedure 1 from 2,10-dimethyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine (80 mg) and 5-{5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline (147 mg) and was obtained as a colourless slightly hygroscopic solid (175 mg).

reactant | 2,10-dimethyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine | 80 mg | CC=1OC2=C(C3=C(CCNCC3)C=C2N1)C | C13H16N2O
reactant | 5-{5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline | 147 mg | ClCCCSC=1N(C(=NN1)C1=C2C=CC(=NC2=CC=C1)C)C | C16H17ClN4S
product | 2,10-dimethyl-7-(3-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride | Cl.CC=1OC2=C(C3=C(CCN(CC3)CCCSC3=NN=C(N3C)C3=C4C=CC(=NC4=CC=C3)C)C=C2N1)C | InChI=1S/C29H32N6OS.ClH/c1-18-9-10-23-24(7-5-8-25(23)30-18)28-32-33-29(34(28)4)37-16-6-13-35-14-11-21-17-26-27(36-20(3)31-26)19(2)22(21)12-15-35;/h5,7-10,17H,6,11-16H2,1-4H3;1H
